US06608101B1
3-(3-Bromo-4,5-dimethoxyphenyl)-1-(3,4,5-trimethoxyphenyl)-2-propen-1-one (0.105 g, 0.2 mmol) from Ex-1A was dissolved in ethylene glycol dimethyl ether (20 mL). Tetrakis(triphenylphosphine)palladium(0) (0.116 g, 0.1 mmol) was added, and the mixture was stirred at room temperature under nitrogen for 5 min. 2-Thiopheneboronic acid (0.128 g) and sodium carbonate solution (2 M, 0.5 mL) were added. The mixture was stirred at reflux under nitrogen overnight. Upon cooling to room temperature it was poured into water (100 mL) and extracted with dichloromethane (100 mL). The organic phase was dried over sodium sulfate and evaporated. Silica gel chromatography (hexane/ethyl acetate, 4:1, 2:1) gave 0.079 g (90%) of the desired 3-[3,4-dimethoxy-5-(thien-2-yl)phenyl]-1-(3,4,5-trimethoxyphenyl)-2-propen-1-one product as a slightly yellow residue. 1H-NMR (300 MHz, CDCl3): 7.79 (d, 1H), 7.56 (m, 2H), 7.42 (d, 1H), 7.39 (d, 1H), 7.29 (s, 2H), 7.10-7.16 (m, 2H), 3.89-4.00 (m, 15H). Anal. Calculated for C24H24O6S C: 65.44, H: 5.49, S: 7.28; found C: 65.69, H: 5.59, S: 6.99.

reactant | 3-(3-Bromo-4,5-dimethoxyphenyl)-1-(3,4,5-trimethoxyphenyl)-2-propen-1-one | 0.2 mmol, 0.105 g | BrC=1C=C(C=C(C1OC)OC)C=CC(=O)C1=CC(=C(C(=C1)OC)OC)OC | C20H21BrO6
reactant | 2-Thiopheneboronic acid | 0.128 g | S1C(=CC=C1)B(O)O | C4H5BO2S
reactant | sodium carbonate | 2 M, 0.5 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | 100 mL | O | H2O
solvent | ethylene glycol dimethyl ether | 20 mL | COCCOC | C4H10O2
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 0.1 mmol, 0.116 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-[3,4-dimethoxy-5-(thien-2-yl)phenyl]-1-(3,4,5-trimethoxyphenyl)-2-propen-1-one | 0.079 g, 90% | COC=1C=C(C=C(C1OC)C=1SC=CC1)C=CC(=O)C1=CC(=C(C(=C1)OC)OC)OC | C24H24O6S
